US05665718
2.7 g (16.8 mmol) of 1,1'-carbonyldiimidazole were added portionwise to a suspension of 4.7 g (16.0 mmol) of 8-chloro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid in 25 ml of N,N-dimethylformamide. After the CO2 evolution had finished the mixture was heated to 60° for 45 min. Subsequently, the solution was cooled to room temperature and 3.9 ml of conc. aqueous ammonia solution were added dropwise thereto. After stirring for a further 90 minutes the reaction mixture was poured into 90 ml of ice-water and stirred for 1 hr. The white crystals were filtered off under suction and washed with a small amount of water. After drying in a high vacuum there were obtained 3.84 g (83%) of 8-chloro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamide of m.p. 275°-277°.

reactant | 1,1'-carbonyldiimidazole | 16.8 mmol, 2.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 8-chloro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid | 16.0 mmol, 4.7 g | ClC=1C=CC2=C(C(N(CC=3N2C=NC3C(=O)O)C)=O)C1 | C13H10ClN3O3
reactant | CO2 | C(=O)=O | CO2
reactant | ammonia | 3.9 ml | N | H3N
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 8-chloro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamide | 3.84 g, 83% | ClC=1C=CC2=C(C(N(CC=3N2C=NC3C(=O)N)C)=O)C1 | C13H11ClN4O2
